US05006651
In a manner analogous to that described in Example 3(A), from 0.23 g of (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester acetate and 0.105 g of 3-nitrophthalic anhydride, there was obtained 0.105 g of [4-methyl-2-[[3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl][(3-nitrophthalimido)methyl]phosphinic acid methyl ester in the form of a pale yellow foam.

reactant | (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester acetate | 0.23 g | C(C)(=O)O.COP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN
reactant | 3-nitrophthalic anhydride | 0.105 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
product | [4-methyl-2-[[3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl][(3-nitrophthalimido)methyl]phosphinic acid methyl ester | 0.105 g | COP(=O)(CN1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O)CC(CC(C)C)C(NC(CC(C)C)C(NC)=O)=O | C24H35N4O8P
